US07645771B2
To a solution of methyl 5-amino-4-chloro-2-fluorobenzoate (248 mg, 1.22 mmol) and pyridine (0.12 mL, 1.46 mmol) in 5 mL CH2Cl2 was added methanesulfonyl chloride (0.10 mL, 1.34 mmol). After 5 days at room temperature, the reaction mixture was washed with saturated aqueous NaHCO3 and extracted with CHCl3 to provide crude methyl 4-chloro-2-fluoro-5-[(methylsulfonyl)amino]benzoate as a solid (ESI-MS 280 (M−H)), which was hydrolyzed using aqueous NaOH to provide 4-chloro-2-fluoro-5-[(methylsulfonyl)amino]benzoic acid (ESI-MS 266 (M−H)), which was used without further purification.

reactant | methyl 5-amino-4-chloro-2-fluorobenzoate | 1.22 mmol, 248 mg | NC=1C(=CC(=C(C(=O)OC)C1)F)Cl | C8H7ClFNO2
reactant | pyridine | 1.46 mmol, 0.12 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 1.34 mmol, 0.10 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-chloro-2-fluoro-5-[(methylsulfonyl)amino]benzoate | ClC1=CC(=C(C(=O)OC)C=C1NS(=O)(=O)C)F | C9H9ClFNO4S
